US07132425B2
A mixture of 5-(2-dimethylamino-vinyl)-pyrazine-2-carboxylic acid methyl ester (3.00 g, 14.5 mmol) and sodium periodate (9.09 g, 43.5 mmol) in methanol (40 mL) at 0° C. was treated dropwise with water (80 mL). The mixture was stirred at 0° C. for 30 min and then at 25° C. for 30 min. The mixture was partitioned between a saturated aqueous sodium bicarbonate solution (50 mL) and ethyl acetate (50 mL). The aqueous later was separated and saturated with sodium chloride. The aqueous layer was then extracted with ethyl acetate (4×50 mL). The combined organic extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford a red solid. The resulting solid was combined with trimethylorthoformate (15 mL) and methanol (40 mL) and then was treated with p-toluenesulfonic acid monohydrate (191 mg, 1 mmol). The reaction mixture was heated under reflux for 1.5 h and then cooled to 25° C. The reaction was diluted with ethyl acetate (100 mL) and washed with a saturated aqueous sodium bicarbonate solution (50 mL). The organic layer was separated, and the aqueous layer was extracted with ethyl acetate (3×25 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to afford 5-dimethoxymethyl-pyrazine-2-carboxylic acid methyl ester (2.26 g, 73%) as a yellow oil which was used without further purification.

reactant | 5-(2-dimethylamino-vinyl)-pyrazine-2-carboxylic acid methyl ester | 14.5 mmol, 3.00 g | COC(=O)C1=NC=C(N=C1)C=CN(C)C | C10H13N3O2
reactant | sodium periodate | 43.5 mmol, 9.09 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 80 mL | O | H2O
reactant | trimethylorthoformate | 15 mL | COC(OC)OC | C4H10O3
solvent | methanol | 40 mL | CO | CH4O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | p-toluenesulfonic acid monohydrate | 1 mmol, 191 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 40 mL | CO | CH4O
product | 5-dimethoxymethyl-pyrazine-2-carboxylic acid methyl ester | 2.26 g, 73% | COC(=O)C1=NC=C(N=C1)C(OC)OC | C9H12N2O4
